US04061761
c. 4-(4-Chloro-3-cyclooctylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride
5.2 g of 2,4'-dichloro-3'-cyclooctylsulfamoylacetophenone and 1.8 g of 1,3-dimethylthiourea were reacted as prescribed in Example 23. To the reaction mixture were added 30 ml of ethyl acetate and the end product was filtered off. Colorless crystals, melting point: 192° C (decomposition).

reactant | 2,4'-dichloro-3'-cyclooctylsulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(NC1CCCCCCC1)(=O)=O | C16H21Cl2NO3S
reactant | 1,3-dimethylthiourea | 1.8 g | CNC(=S)NC | C3H8N2S
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-Chloro-3-cyclooctylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NC1CCCCCCC1)(=O)=O | InChI=1S/C19H28ClN3O3S2.ClH/c1-21-18-23(2)19(24,13-27-18)14-10-11-16(20)17(12-14)28(25,26)22-15-8-6-4-3-5-7-9-15;/h10-12,15,22,24H,3-9,13H2,1-2H3;1H
